US04368335
N'-[2,6-Dichloro-4-(3-fluoro-4-methoxybenzylamino)phenyl]-N,N-dimethylformamidine
A 4.0 g. amount of N'-[2,6-dichloro-4-[(3-fluoro-4-methoxybenzylidene)amino]phenyl]-N,N-dimethylformamidine is dissolved in 100 ml. of warm tetrahydrofuran, then 500 mg. of platinum oxide that has been wetted with water is added and the mixture is hydrogenated in a Parr apparatus for 15 minutes. The reaction mixture is filtered and washed with tetrahydrofuran. The clear yellow solution is evaporated in vacuo to crystallize a solid. The solid is recrystallized from ethanol, filtered and washed with a small amount of ether to provide 2.0 g. of the desired product as granular yellow crystals, m.p. 138°-140° C.

reactant | N'-[2,6-dichloro-4-[(3-fluoro-4-methoxybenzylidene)amino]phenyl]-N,N-dimethylformamidine | ClC1=C(C(=CC(=C1)N=CC1=CC(=C(C=C1)OC)F)Cl)N=CN(C)C | C17H16Cl2FN3O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | platinum oxide | [Pt]=O
solvent | water | O | H2O
product | N'-[2,6-Dichloro-4-(3-fluoro-4-methoxybenzylamino)phenyl]-N,N-dimethylformamidine | ClC1=C(C(=CC(=C1)NCC1=CC(=C(C=C1)OC)F)Cl)N=CN(C)C | C17H18Cl2FN3O
